### PR TITLE
feat(Geometry/Manifold): add `MfldCat`, the category of `C^n` manifolds

### PR DESCRIPTION
**Pull request by Deicyde**
Defines `MfldCat 𝕜 n`: the category of `C^n` manifolds over a field `𝕜`, in which the model with corners is allowed to vary between objects. An object bundles a model vector space `E`, a model space `H`, a model with corners `I : ModelWithCorners 𝕜 E H` and a term of `ModelWithCorners.MfldCat I n`--see #41109. This includes manifolds with boundary / corners. 

For more discussion see this Zulip thread: [#PR reviews > #38223 The Category of C^n Manifolds](https://leanprover.zulipchat.com/#narrow/channel/144837-PR-reviews/topic/.2338223.20The.20Category.20of.20C.5En.20Manifolds/with/587038032)

Also added: `ContMDiffMap.id_apply`, `.coe_id` and `.coe_comp` which are comparable to `ContinuousMap` API.

### Future work
- ✅ Define a Monoidal structure via product manifolds, analogous to `Manifold.Topology.Category.TopCat.Monoidal` #38560 
- ✅ Define the tangent functor: `M ↦ TM`, `F ↦ F.tangentMap` from `MfldCat (n+1) 𝕜` to `MfldCat n 𝕜` #38270
- Functor `FGModuleCat 𝕜 ⥤ MfldCat 𝕜 n` sending a finite-dimensional `𝕜`-vector space to the manifold modeled on itself. Left as `TODO`.
- Define `FGModuleCat 𝕜` as an enriched category over `MfldCat n 𝕜`. Then _smooth functors_ can be realized as endofunctors on the enriched category. This is the main motivation for this construction.

---

- [x] depends on: #41109 [The category of `C^n` manifolds on a fixed model]

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,258 @@
...
+  H : Type u₄
+  [instNAG : NormedAddCommGroup E]
+  [instNS : NormedSpace 𝕜 E]
+  [instTopH : TopologicalSpace H]
+  /-- The model with corners. -/
+  I : ModelWithCorners 𝕜 E H
+  [instTop : TopologicalSpace carrier]
+  [instCharted : ChartedSpace H carrier]
+  [instManifold : IsManifold I n carrier]
+
```
Comment (idontgetoutmuch) [inline Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean:58]: I had to translate `carrier` to `M` for manifold in my head. What is the rationale for not staying with the usual notational choice?

File: Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,258 @@
...
+-/
+
+@[expose] public section
+
+set_option autoImplicit false
+
+open CategoryTheory
+open scoped Manifold
+
+universe u₁ u₂ u₃ u₄
```
Comment (peabrainiac) [inline Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean]: Aside from the point on Zulip that I would prefer just two universe levels, one for the field and one for the other types - if you put `u₁` last, you can do e.g. `MfldCat.{u₂, u₃, u₄} ℝ n` where currently you would have to write `MfldCat.{0, u₂, u₃, u₄} ℝ n`.

File: Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,258 @@
...
+
+/-- The category of `C^n` 𝕜-manifolds. -/
+-- Note: Copied from `PFunctor`, but do we need seperate universe levels here? Seems perverse.
+@[pp_with_univ, nolint checkUnivs]
+structure MfldCat (𝕜 : Type u₁) [NontriviallyNormedField 𝕜] (n : WithTop ℕ∞) where
```
Comment (peabrainiac) [inline Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean]: If you `open scoped ContDiff` you can use `ℕ∞ω` in place of `WithTop ℕ∞` here :)

File: Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,258 @@
...
+  /-- The object in `MfldCat` associated to a type equipped with the appropriate typeclasses. -/
+  of ::
+  /-- The underlying type. -/
+  carrier : Type u₂
+  /-- The model normed space. -/
+  E : Type u₃
+  /-- The chart space. -/
+  H : Type u₄
+  [instNAG : NormedAddCommGroup E]
```
Comment (peabrainiac) [inline Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean]: I don't think we should abbreviate these instances - it goes against the naming convention, and makes them harder to find in search. I get that names like `instNormedAddCommGroupE` are long and can feel inconvenient, but considering that they're instances I would hope we don't need to manually refer to them much anyway.

File: Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,258 @@
...
+  [instNS : NormedSpace 𝕜 E]
+  [instTopH : TopologicalSpace H]
+  /-- The model with corners. -/
+  I : ModelWithCorners 𝕜 E H
+  [instTop : TopologicalSpace carrier]
+  [instCharted : ChartedSpace H carrier]
+  [instManifold : IsManifold I n carrier]
```
Comment (peabrainiac) [inline Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean]: Same thing here with `instManifold` instead of `instIsManifold` - I'm pointing it out explicitly because it is not as obvious an abbreviation as the other ones, but still prevents the instance from showing up if you search e.g. `MfldCat.isManifold` in the docs

File: Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,258 @@
...
+
+@[simp]
+theorem of_diffeomorphOfIso {M N : MfldCat 𝕜 n} (f : M ≅ N) :
+    isoOfDiffeomorph (diffeomorphOfIso f) = f := by
+  ext
+  rfl
+
+/-- The constant morphism `M ⟶ N` in `MfldCat` given by `y : N`. -/
+def const {M N : MfldCat 𝕜 n} (y : N) : M ⟶ N :=
+  ofHom ⟨fun _ ↦ y, contMDiff_const⟩
```
Comment (peabrainiac) [inline Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean]: Maybe use [ContMDiffMap.const](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Geometry/Manifold/ContMDiffMap.html#ContMDiffMap.const) here?

File: Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean [hunk 7]
```diff
@@ -0,0 +1,258 @@
...
+
+public import Mathlib.Geometry.Manifold.ContMDiffMFDeriv
+public import Mathlib.Geometry.Manifold.Diffeomorph
+public import Mathlib.Topology.Category.TopCat.Basic
+
+/-!
+# Category instance for smooth manifolds
+
+We introduce the category `MfldCat 𝕜 n` of `C^n` manifolds over a field `𝕜`. Each object bundles the
+underlying manifold together with its model space `E`, chart space `H`, and
```
Comment (peabrainiac) [inline Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean]: I think we usually call `H` the model space and `E` the model vector space - just a minor nitpick.

File: Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean [hunk 8]
```diff
@@ -0,0 +1,258 @@
...
+`I : ModelWithCorners 𝕜 E H`. Thus, `MfldCat 𝕜 n` also includes manifolds with boundary and corners.
```
Comment (peabrainiac) [inline Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean:16]: Maybe it is also worth mentioning that manifolds here can be non-Hausdorff and non-paracompact? Since that is not what most people would expect when hearing "the category of manifolds".

File: Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean [hunk 9]
```diff
@@ -0,0 +1,258 @@
...
+  carrier : Type u₂
+  /-- The model normed space. -/
+  E : Type u₃
+  /-- The chart space. -/
+  H : Type u₄
+  [instNAG : NormedAddCommGroup E]
+  [instNS : NormedSpace 𝕜 E]
+  [instTopH : TopologicalSpace H]
+  /-- The model with corners. -/
+  I : ModelWithCorners 𝕜 E H
```
Comment (chrisflav) [inline Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean:54]: How about splitting this into two structures? The first one, let's call it `ModelWithCorners.MfldCat`, would have `E`, `H` and `I` as parameters. This would give a natural way to consider e.g. the category of manifolds of dimension `n` without boundary.

The second one would be equivalent to the one you currently have: It would take `E`, `H` and `I` as fields and a term of `ModelWithCorners.MfldCat I`.

File: Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean [hunk 10]
```diff
@@ -0,0 +1,258 @@
...
+Authors: Jack McCarthy
+-/
+module
+
+public import Mathlib.Geometry.Manifold.ContMDiffMFDeriv
+public import Mathlib.Geometry.Manifold.Diffeomorph
+public import Mathlib.Topology.Category.TopCat.Basic
+
+/-!
+# Category instance for smooth manifolds
```
Comment (peabrainiac) [inline Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean]: I think "The category of $C^n$ manifolds" would make a lot more sense, since we don't just provide a category instance on an existing type but define a new type `MfldCat` here. I see `Mathlib.Topology.Category.TopCat.Basic` was also named in this way though, so I guess it would be fine to stick with it for consistency?

The "smooth" should probably go though, since we define categories for all smoothness degrees here.

File: Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean [hunk 11]
```diff
@@ -0,0 +1,258 @@
+/-
+Copyright (c) 2026 Jack McCarthy. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Jack McCarthy
+-/
+module
+
+public import Mathlib.Geometry.Manifold.ContMDiffMFDeriv
```
Comment (peabrainiac) [inline Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean]: I think this import is unnecessary? Doesn't matter much of course since it will be added anyway in your next PR, but still.

**Review by peabrainiac — COMMENTED** [review]
I left a few smaller comments - my main takeaway aside from those is that this PR contains a lot more boilerplate API (e.g. `Hom` as a type synonym instead of working with `ContMDiffMap` directly) than my earlier version [here](https://peabrainiac.github.io/lean-catdg/docs/CatDG/ForMathlib/Mfld.html), but this is probably a good thing because my code was based on an earlier version of `TopCat` and there are likely good reasons why those changes have been made to the design of `TopCat` since.

Thanks for your work on this, getting this category into mathlib is indeed long overdue.

File: Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean (hunk 9 above)
Comment (peabrainiac) [reply Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean:54]: Do we have any reason to ever consider the category of manifolds of some fixed dimension? The only thing I can see that it has going for it is that it has coproducts whereas `MfldCat` doesn't, but that alone doesn't make it interesting

Comment (chrisflav) [reply Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean:54]: Certainly the category of manifolds without boundary is relevant. We can of course alternatively take the subcategory defined by something like [BoundarylessManifold](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.html#BoundarylessManifold), but the model with corners will satisfy worse definitional properties.

Generally, it is easy to combine unbundled structures into bundled ones, but going the other way always requires a refactor. So we should check now if we later need the unbundled version.

File: Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean (hunk 7 above)
Comment (Deicyde) [reply Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean]: Thanks, fixed!

File: Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean (hunk 6 above)
Comment (Deicyde) [reply Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean]: Yep, nice micro-golf there

File: Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean (hunk 10 above)
Comment (Deicyde) [reply Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean]: I agree, "The Category of C^n Manifolds" is a much nicer title. I'm going to change it and see if any other reviewer objects.

File: Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean (hunk 8 above)
Comment (Deicyde) [reply Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean:16]: Good point, I'll add that

File: Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean (hunk 1 above)
Comment (Deicyde) [reply Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean:58]: From what I can tell, `carrier` seems to be the standard choice across all of the Category Theory codebase. Whenever a category is wrapping an existing type, that type is called `carrier`.

I agree `M` would be a more natural name for this field. If another reviewer agrees, I'm happy to change it.

File: Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean (hunk 4 above)
Comment (Deicyde) [reply Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean]: Good point. I will change the names and make them longer. It is better to give them a descriptive name at the cost of a few extra characters.

File: Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean (hunk 2 above)
Comment (Deicyde) [reply Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean]: I changed it to two universe levels. I'm more confident in this choice now that you and Kevin seem to support it.

File: Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean (hunk 3 above)
Comment (Deicyde) [reply Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean]: Fixed!

File: Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean (hunk 5 above)
Comment (Deicyde) [reply Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean]: Fixed!

File: Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean (hunk 11 above)
Comment (Deicyde) [reply Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean]: Not necessary, good catch

File: Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean (hunk 1 above)
Comment (peabrainiac) [reply Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean:58]: I think carrier as a name is fine - it is standard, and shouldn't appear much in later code anyway since we set up a coercion to `Type` (i.e. instead of `M.carrier` or `M.M` with the rename you should be able to just write `M`).

File: Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean (hunk 9 above)
Comment (peabrainiac) [reply Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean:54]: Using a subcategory defined by things like [BoundarylessManifold](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.html#BoundarylessManifold) seems more natural to me - we will have to do that anyway if we want to talk about boundaryless manifolds of non-fixed dimension, there are plenty of boundaryless manifolds on non-boundaryless models (e.g. the interior of any manifold with boundary), and we already have some well-behavedness results like that `BoundarylessManifold` is invariant under isomorphism

File: Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean (hunk 1 above)
Comment (idontgetoutmuch) [reply Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean:58]: In that case ignore my comment

File: Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean [hunk 12]
```diff
@@ -0,0 +1,263 @@
...
+# Implementation Notes
+* We do not assume `[FiniteDimensional 𝕜 E] [T2Space M] [SigmaCompactSpace M]`, so this category
+  includes non-Hausdorff, non-paracompact, and infite-dimensional manifolds.
+* We keep `E`, `H` and `carrier` all in the same `Type u` since we do not care about large manifolds
+  modelled on small spaces. `𝕜` is given a seperate `Type v`.
+-/
+
+@[expose] public section
+
+set_option autoImplicit false
```
Comment (dagurtomas) [inline Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean]:
```suggestion
```
This is false by default

File: Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean [hunk 13]
```diff
@@ -0,0 +1,263 @@
...
+We define a forgetful functor `forget₂ (MfldCat 𝕜 n) TopCat` taking smooth manifolds to topological
+spaces. We also define `MfldCat.ofNormedSpace` turning any `NormedSpace 𝕜 E` into a manifold. In the
+future, we plan to define a functor `FGModuleCat 𝕜 ⥤ MfldCat 𝕜 n` from the category of
+finite-dimensional vector spaces over `𝕜`.
+
+# Implementation Notes
+* We do not assume `[FiniteDimensional 𝕜 E] [T2Space M] [SigmaCompactSpace M]`, so this category
+  includes non-Hausdorff, non-paracompact, and infite-dimensional manifolds.
+* We keep `E`, `H` and `carrier` all in the same `Type u` since we do not care about large manifolds
+  modelled on small spaces. `𝕜` is given a seperate `Type v`.
```
Comment (dagurtomas) [inline Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean]:
```suggestion
* We keep `E`, `H` and `carrier` all in the same `Type u`; `𝕜` is given a seperate `Type v`.
```

File: Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean [hunk 14]
```diff
@@ -0,0 +1,263 @@
...
+variable (X E H I) in
+lemma coe_of : (of (n := n) X E H I : Type u) = X := rfl
+
+lemma of_carrier (M : MfldCat 𝕜 n) : of (n := n) M.carrier M.E M.H M.I = M := rfl
+
+/-- The type of morphisms in `MfldCat`. -/
+@[ext]
+structure Hom (M N : MfldCat.{u, v} 𝕜 n) where
+  /-- The underlying `C^n` map. -/
+  hom' : ContMDiffMap M.I N.I M N n
```
Comment (dagurtomas) [inline Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean:105]: You want this constructor to be private, see how it's done e.g. for `TopCat` or `ModuleCat`

File: Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean [hunk 15]
```diff
@@ -0,0 +1,263 @@
...
+
+/-- Use the `ConcreteCategory.hom` projection for `@[simps]` lemmas. -/
+def Hom.Simps.hom (M N : MfldCat.{u, v} 𝕜 n) (f : Hom M N) :=
+  f.hom
+
+initialize_simps_projections Hom (hom' → hom)
+
+/-!
+The results below duplicate the `ConcreteCategory` simp lemmas, but we can keep them for `dsimp`.
+-/
```
Comment (dagurtomas) [inline Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean:137]: I'm guessing you copied this section from one of the algebraic categories. Much of this can just be removed.

File: Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean [hunk 16]
```diff
@@ -0,0 +1,263 @@
...
+@[simp]
+lemma hom_id {M : MfldCat 𝕜 n} :
+    (𝟙 M : M ⟶ M).hom = ContMDiffMap.id := rfl
+
+@[simp]
+theorem id_app (M : MfldCat 𝕜 n) (x : ↑M) : (𝟙 M : M ⟶ M) x = x := rfl
+
+@[simp]
+theorem coe_id (M : MfldCat 𝕜 n) : (𝟙 M : M → M) = _root_.id := rfl
+
```
Comment (dagurtomas) [inline Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean]:
```suggestion
```
Can already be proved by `dsimp`.

File: Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean [hunk 17]
```diff
@@ -0,0 +1,263 @@
...
+lemma hom_comp {M N P : MfldCat 𝕜 n} (f : M ⟶ N) (g : N ⟶ P) :
+    (f ≫ g).hom = g.hom.comp f.hom := rfl
+
+@[simp]
+theorem comp_app {M N P : MfldCat 𝕜 n} (f : M ⟶ N) (g : N ⟶ P) (x : M) :
+    (f ≫ g : M → P) x = g (f x) := rfl
+
+@[simp]
+theorem coe_comp {M N P : MfldCat 𝕜 n} (f : M ⟶ N) (g : N ⟶ P) :
+    (f ≫ g : M → P) = g ∘ f := rfl
```
Comment (dagurtomas) [inline Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean]:
```suggestion
```
ditto

File: Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean [hunk 18]
```diff
@@ -0,0 +1,263 @@
...
+
+@[ext]
+lemma hom_ext {M N : MfldCat 𝕜 n} {f g : M ⟶ N} (hf : f.hom = g.hom) : f = g :=
+  Hom.ext hf
+
+@[ext]
+lemma ext {M N : MfldCat 𝕜 n} {f g : M ⟶ N} (w : ∀ x : M, f x = g x) : f = g :=
+  ConcreteCategory.hom_ext _ _ w
+
```
Comment (dagurtomas) [inline Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean]:
```suggestion
```

These are just `ConcreteCategory.ext` and `ConcreteCategory.hom_ext`

File: Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean [hunk 19]
```diff
@@ -0,0 +1,263 @@
...
+lemma ofHom_comp (f : ContMDiffMap I I' X Y n) (g : ContMDiffMap I' I'' Y Z n) :
+    ofHom (g.comp f) = ofHom f ≫ ofHom g := rfl
+
+lemma ofHom_apply (f : ContMDiffMap I I' X Y n) (x : X) : (ofHom f) x = f x := rfl
+
+lemma hom_inv_id_apply {M N : MfldCat 𝕜 n} (f : M ≅ N) (x : M) : f.inv (f.hom x) = x := by
+  simp
+
+lemma inv_hom_id_apply {M N : MfldCat 𝕜 n} (f : M ≅ N) (y : N) : f.hom (f.inv y) = y := by
+  simp
```
Comment (dagurtomas) [inline Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean]:
```suggestion
```

File: Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean [hunk 20]
```diff
@@ -0,0 +1,263 @@
...
+
+end ofHom
+
+/-- Morphisms in `MfldCat` are equivalent to `ContMDiffMap`s. -/
+@[simps]
+def Hom.equivContMDiffMap (M N : MfldCat 𝕜 n) :
+    (M ⟶ N) ≃ ContMDiffMap M.I N.I M N n where
+  toFun f := f.hom
+  invFun f := ofHom f
```
Comment (dagurtomas) [inline Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean]:
```suggestion
```
This is just `ConcreteCategory.homEquiv (C := MfldCat 𝕜 n)`

File: Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean [hunk 21]
```diff
@@ -0,0 +1,263 @@
...
+@[simp] theorem coe_of_of {f : ContMDiffMap I I' X Y n} {x} :
+    @DFunLike.coe (of (n := n) X E H I ⟶ of (n := n) Y E' H' I')
+      ((CategoryTheory.forget (MfldCat 𝕜 n)).obj (of (n := n) X E H I))
+      (fun _ ↦ (CategoryTheory.forget (MfldCat 𝕜 n)).obj (of (n := n) Y E' H' I'))
+      ConcreteCategory.instFunLike
+      (ofHom f) x =
+    @DFunLike.coe (ContMDiffMap I I' X Y n) X
+      (fun _ ↦ Y) _
+      f x :=
+  rfl
```
Comment (dagurtomas) [inline Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean]:
```suggestion
```
`ConcreteCategory.instFunLike` should just be removed, it seems to be used in exactly one place in the library, the statement of the analogue of this lemma for `TopCat`, which can probably also just be removed.

File: Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean [hunk 22]
```diff
@@ -0,0 +1,263 @@
...
+abbrev ofNormedSpace (n : ℕ∞ω) (E : Type u) [NormedAddCommGroup E] [NormedSpace 𝕜 E] :
+    MfldCat 𝕜 n :=
+  of E E E (modelWithCornersSelf 𝕜 E)
+
+/-- `MfldCat 𝕜 n` has a forgetful functor to `TopCat`. -/
+instance : HasForget₂ (MfldCat 𝕜 n) TopCat.{u} where
+  forget₂.obj M := TopCat.of M
+  forget₂.map f := TopCat.ofHom ⟨f.hom, f.hom.contMDiff.continuous⟩
+
+-- TODO: define a functor `FGModuleCat 𝕜 ⥤ MfldCat 𝕜 n`.
```
Comment (dagurtomas) [inline Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean]: Is this a TODO for this PR, or for the future? If for the future, put it in the module docstring

File: Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean [hunk 23]
```diff
@@ -0,0 +1,263 @@
...
+
+/-- Any diffeomorphism induces an isomorphism in `MfldCat`. -/
+@[simps]
+def isoOfDiffeomorph {M N : MfldCat 𝕜 n} (f : M ≃ₘ^n⟮M.I, N.I⟯ N) : M ≅ N where
+  hom := ofHom f.toContMDiffMap
+  inv := ofHom f.symm.toContMDiffMap
+  hom_inv_id := by ext x; exact f.left_inv x
+  inv_hom_id := by ext x; exact f.right_inv x
```
Comment (dagurtomas) [inline Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean]:
```suggestion
```
Automation takes care of this

File: Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean [hunk 24]
```diff
@@ -0,0 +1,263 @@
...
+  left_inv _ := by simp
+  right_inv _ := by simp
+  contMDiff_toFun := f.hom.hom.contMDiff
+  contMDiff_invFun := f.inv.hom.contMDiff
+
+@[simp]
+theorem of_isoOfDiffeomorph {M N : MfldCat 𝕜 n} (f : M ≃ₘ^n⟮M.I, N.I⟯ N) :
+    diffeomorphOfIso (isoOfDiffeomorph f) = f := by
+  ext
+  rfl
```
Comment (dagurtomas) [inline Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean]:
```suggestion
    diffeomorphOfIso (isoOfDiffeomorph f) = f :=
  rfl
```
Then it's avaolable to `dsimp`

File: Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean [hunk 25]
```diff
@@ -0,0 +1,263 @@
...
+
+@[simp]
+theorem of_diffeomorphOfIso {M N : MfldCat 𝕜 n} (f : M ≅ N) :
+    isoOfDiffeomorph (diffeomorphOfIso f) = f := by
+  ext
+  rfl
```
Comment (dagurtomas) [inline Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean]:
```suggestion
    isoOfDiffeomorph (diffeomorphOfIso f) = f :=
  rfl
```

**Review by dagurtomas — COMMENTED** [review]
I know I'm suggesting to remove a bunch of API that has analogues in other concrete categories. The reason is that it should be removed there and not added here. We have good general concrete category API now that should be used instead

File: Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean (hunk 14 above)
Comment (dagurtomas) [reply Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean:105]: To explain a bit more: the reason is to make sure that it's only every the `ConcreteCategory` API that is used, not the ad hoc `Hom` structure defined in each case.

File: Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean (hunk 22 above)
Comment (Deicyde) [reply Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean]: Yes, it's for the future, not this PR. I will move to the docstring.

File: Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean (hunk 21 above)
Comment (Deicyde) [reply Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean]: Okay I just removed it. I'm happy to make a seperate PR removing it from `TopCat` as well.

File: Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean (hunk 20 above)
Comment (Deicyde) [reply Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean]: Good point. Removed it.

File: Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean (hunk 19 above)
Comment (Deicyde) [reply Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean]: Removed!

File: Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean (hunk 14 above)
Comment (Deicyde) [reply Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean:105]: Okay, I changed it to follow the same pattern as `ModuleCat` (private constructor, and use `set_option backward.privateInPublic`)

**Comment by Deicyde** [comment]
-awaiting-author

File: Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean (hunk 15 above)
Comment (Deicyde) [reply Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean:137]: Can you clarify _how much_ can be removed? Do you mean everything from the ofHom section? 

You're right, I did copy this part from the algebraic categories. Are they outdated about needing the `dsimp` lemmas?

File: Mathlib/Geometry/Manifold/ContMDiffMap.lean [hunk 26]
```diff
@@ -79,6 +79,12 @@ instance : ContinuousMapClass C^n⟮I, M; I', M'⟯ M M' where
 nonrec def id : C^n⟮I, M; I, M⟯ :=
   ⟨id, contMDiff_id⟩
 
+@[simp]
+theorem id_apply (x : M) : (ContMDiffMap.id : C^n⟮I, M; I, M⟯) x = x := rfl
```
Comment (dagurtomas) [inline Mathlib/Geometry/Manifold/ContMDiffMap.lean]: Once you have `coe_id`, I think this is just `by dsimp` (untested). And then it doesn't need to be a `simp` lemma. But it's ok to keep it for rewriting. And for consistency, maybe add `comp_apply` as well?

File: Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean (hunk 9 above)
Comment (dagurtomas) [reply Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean:54]: In general I lean more towards using the `FullSubcategory` API, but I'm not familiar enough with the manifold API to decide which approach I think is better here. It would be good to get input form e.g. @grunweg

**Review by dagurtomas — APPROVED** [review]
The category theory part looks good to me, but we need to resolve the comment by @chrisflav about facilitating possible future variants of this category

File: Mathlib/Geometry/Manifold/ContMDiffMap.lean (hunk 26 above)
Comment (dagurtomas) [reply Mathlib/Geometry/Manifold/ContMDiffMap.lean]: @Deicyde did you miss this suggestion?

Comment (Deicyde) [reply Mathlib/Geometry/Manifold/ContMDiffMap.lean]: @dagurtomas Sorry, working on it now!

Comment (Deicyde) [reply Mathlib/Geometry/Manifold/ContMDiffMap.lean]: `comp_apply` already exists, so I did not touch it. Only removed the `@[simp]` tag from `id_apply` per your request

**Comment by Deicyde** [comment]
-awaiting-author

File: Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean (hunk 9 above)
Comment (chrisflav) [reply Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean:54]: The problem is that the manifold people probably just don't care about the category of manifolds, so don't have an opinion here. Maybe @grunweg can answer the question if having good def-eqs for the `ModelWithCorners` is relevant in practice or not.

Comment (chrisflav) [reply Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean:54]: Sorry for the long delay here. After in person discussions with @grunweg and @peabrainiac, we have convinced ourselves that splitting this structure into two is desirable for the following reason:

Many existing constructions in the differential geometry library in mathlib rely on def-eqs of the model with corners. For example, the disjoint union of two manifolds will only automatically get a manifold structure if both manifolds have the same model with corners. In practice this means that concrete constructions from the unbundled world will carry over to `ModelWithCorners.MfldCat` first and can then be interpreted in `MfldCat`.

Could you please refactor this PR accordingly? It would probably make sense to make the `ModelWithCorners.MfldCat` a separate PR.

Comment (Deicyde) [reply Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean:54]: @chrisflav Sure, I will get on that. Thanks for the feedback!

Comment (Deicyde) [reply Mathlib/Geometry/Manifold/Category/MfldCat/Basic.lean]: Okay #41109 is merged now, so I think this convo is resolved.

**Comment by Deicyde** [comment]
-awaiting-author
